US08309542B2
(a) 2-(2-Nitro-propenyl)-thiophene
5.0 g (44.6 mmol) 3-formylthiophene are dissolved together with 8.9 ml (124.8 mmol) nitroethane, 5.3 ml (53.5 mmol) butylamine in 25.1 ml glacial acetic acid (454.7 mmol) and heated to 80° C. After two hours the mixture is cooled and the precipitate formed is suction filtered and washed with copious amounts of water. The crude product thus obtained is dissolved in ethyl acetate, dried on sodium sulphate and evaporated down i. vac.

reactant | 3-formylthiophene | 44.6 mmol, 5.0 g | C(=O)C1=CSC=C1 | C5H4OS
reactant | nitroethane | 124.8 mmol, 8.9 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | butylamine | 53.5 mmol, 5.3 ml | C(CCC)N | C4H11N
reactant | acetic acid | 454.7 mmol, 25.1 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Nitro-propenyl)-thiophene | [N+](=O)([O-])C(=CC=1SC=CC1)C | C7H7NO2S
